US08242130B2
To a solution of 3-bromo-4-hydroxy-benzoic acid (3.0 g, 13.83 mmol) in dichloromethane (100 mL) and pyridine (20 mL) was added acetyl chloride (1.1 mL, 15.20 mmol) and the resulting mixture was stirred at rt for 1 h. The reaction was quenched with water (50 mL) and acidified with HCl (1 N) to adjust pH=1˜2. The mixture was extracted with dichloromethane (3×100 mL) and concentrated to afford 4-acetoxy-3-bromo-benzoic acid (3.6 g, 100%). To a solution of 4-acetoxy-3-bromo-benzoic acid (3.60 g, 13.83 mmol) in dichloromethane (100 mL) at rt was added oxalyl chloride (1.8 mL, 20.75 mmol) and DMF (0.5 mL), sequentially. The resulting mixture was stirred at rt for 1 h. The mixture was concentrated to afford the acid chloride. To a solution of the freshly prepared acid chloride in dichloromethane (100 mL) were added 2′-hydroxyacetophenone (2.5 mL, 20.75 mmol) and triethylamine (3.9 mL, 27.66 mmol). This mixture was stirred at rt for 2 h. The reaction was quenched with water (100 mL) and extract with dichloromethane (3×150 mL). The combined organic layers were concentration to afford an oily residue, which was purified by column chromatography using 30% EtOAc in hexane to give the phenol ester (4.5 g, 86%). A solution of the phenol ester (4.0 g, 10.61 mmol) in THF (100 mL) was mixed with potassium t-butoxide (1.6 g, 14.32 mmol) and stirred at 60° C. for 1.5 h. This mixture was cooled to rt, diluted with water (100 mL) and acidified with HCl (1 N) to adjust pH=5-6. The mixture was extract with dichloromethane (3×100 mL) and the combined organic layers were concentration to give a yellow solid residue. The residue was purified by column chromatography using 30% EtOAc in hexane to give the diketone (2.3 g, 58%). A solution of the diketone (1.50 g, 3.98 mmol) in AcOH (100 mL) and HCl (conc., 2 mL) was stirred at reflux for 16 h. This mixture was cooled to rt, diluted with water (100 mL), extracted with dichloromethane (3×100 mL) and concentrated. The residue was purified by column chromatography using 50% EtOAc in hexane to give the flavone acetate (0.4 g, 28%). A solution of the flavone acetate (0.53 g, 1.48 mmol) in MeOH (80 mL) and water (20 mL) was mixed with potassium carbonate (1.10 g, 8.00 mmol) and was stirred at rt for 1 h. The solid was filtered off, washed with water, hexanes, and dichloromethane sequentially to give 390 mg of product (83%) as a light yellow solid. MS (ES) m/z: 318.84+316.84 (two isotopes of M); Mp. 273.5-274.9° C.

reactant | 3-bromo-4-hydroxy-benzoic acid | 13.83 mmol, 3.0 g | BrC=1C=C(C(=O)O)C=CC1O | C7H5BrO3
reactant | acetyl chloride | 15.20 mmol, 1.1 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-3-bromo-benzoic acid | 3.6 g, 100% | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)Br | C9H7BrO4
